US05441969
3-Methoxymethyl-2-trimethylstannylfuran was prepared in the same manner as 2-trimethylstannylfuran with 3-methoxymethylfuran as starting material. bp 93°-97° C. at 15 Torr.

reactant | 2-trimethylstannylfuran | C[Sn](C=1OC=CC1)(C)C
reactant | 3-methoxymethylfuran | COCC1=COC=C1 | C6H8O2
product | 3-Methoxymethyl-2-trimethylstannylfuran | COCC1=C(OC=C1)[Sn](C)(C)C | InChI=1S/C6H7O2.3CH3.Sn/c1-7-4-6-2-3-8-5-6;;;;/h2-3H,4H2,1H3;3*1H3;
